US09126931B2
8-(4-Cyclobutyl-piperazin-1-yl)-6,6,9-trimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
Under nitrogen atmosphere, to the N,N-dimethyl formamide (1.5 ml) solution of 9-bromo-8-(4-cyclobutyl-piperazin-1-yl)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound F4-10, 50 mg, 0.099 mmol), trimethyl boroxine (12 mg, 0.1 eq.), tetrakis triphenylphosphine palladium (39 mg, 0.2 eq.), and potassium carbonate (41 mg, 3.0 eq.) were added, and the mixture was stirred at 100° C. for 24 hr. Upon the completion of the reaction, distilled water was added to the reaction solution, which was then extracted with ethyl acetate. The organic layer was washed with brine and dried over sodium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/methanol) to obtain the title compound (25 mg, 58%).

reactant | 9-bromo-8-(4-cyclobutyl-piperazin-1-yl)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.099 mmol, 50 mg | BrC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1N1CCN(CC1)C1CCC1 | C27H27BrN4O
reactant | trimethyl boroxine | 12 mg, 0.1 eq. | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 41 mg, 3.0 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethyl formamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 8-(4-Cyclobutyl-piperazin-1-yl)-6,6,9-trimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 25 mg, 58% | C1(CCC1)N1CCN(CC1)C=1C(=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1)C | C28H30N4O
